US06855722B2
d) 7-(2-{1-[1-(3-Chloro-phenyl)-2-ethoxycarbonyl-vinyl]-1H-indol-5-yloxy}-ethyl)-3,4-dihydro-2H-[1,8]naphthyridine-1-carboxylic acid tert-butyl ester
The title compound was synthesized from (3-chloro-phenyl)-propynoic acid ethyl ester and 7-[2-(1H-Indol-5-yloxy)-ethyl]-3,4-dihydro-2H-[1,8]naphthyridine-1-carboxylic acid tert-butyl ester using the procedure described in Example 16, step (d1), in 90% yield as an E/Z isomeric mixture. 1H NMR (CDCl3) [E/Z mixture] δ 7.36-7.24 (m, 2H), 7.14-7.6.70 (m, 8H), 6.56 (s, 0.5H), 6.48 (m, 0.5H), 6.21 (s, 0.5H), 6.14 (s, 0.5H), 4.37 (m, 2H), 4.12 (q, 2H, J=6.8 Hz), 3.76 (m, 2H), 3.20 (t, 2H, J=6.8 Hz), 2.73 (t, 2H, J=6.8 Hz), 1.92 (m, 2H), 1.52 (s, 9H), 1.26 (t, 3H, J=7.2 Hz). Mass Spectrum (LCMS, ESI) calculated for C29H29ClN3O3 502.2 (M-Boc+1); found 502.4.

reactant | (3-chloro-phenyl)-propynoic acid ethyl ester | C(C)OC(C#CC1=CC(=CC=C1)Cl)=O | C11H9ClO2
reactant | 7-[2-(1H-Indol-5-yloxy)-ethyl]-3,4-dihydro-2H-[1,8]naphthyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCCC2=CC=C(N=C12)CCOC=1C=C2C=CNC2=CC1 | C23H27N3O3
product | 7-(2-{1-[1-(3-Chloro-phenyl)-2-ethoxycarbonyl-vinyl]-1H-indol-5-yloxy}-ethyl)-3,4-dihydro-2H-[1,8]naphthyridine-1-carboxylic acid tert-butyl ester | 90% yield | C(C)(C)(C)OC(=O)N1CCCC2=CC=C(N=C12)CCOC=1C=C2C=CN(C2=CC1)C(=CC(=O)OCC)C1=CC(=CC=C1)Cl | C34H36ClN3O5
